US08710232B2
Cyclopentyl methyl 2-(6-aminopyridin-3-ylmethyl)-2-(1-cyclopentyl-1H-imidazol-4-yl)malonate
Cyclopentyl methyl 2-(1-cyclopentyl-1H-imidazol-4-yl)malonate (0.46 g; 1.44 mmol) was dissolved in absolute DMF (5 ml). At 0° C., sodium hydride (50%; 0.07 g; 1.44 mmol) was added. The mixture was stirred at RT for 1 h and then cooled again to 0° C. Then tert-butyl (5-bromomethylpyridin-2-yl)carbamate (0.41 g; 1.44 mmol) was added, and the mixture was stirred at RT for 2 h. While cooling in ice, the mixture was quenched with H2O and then extracted twice with EA. The organic phase was separated off and dried over Na2SO4, and the solvent was removed under reduced pressure. Purification of the crude product through a cartridge (50 g of silica gel) resulted in 0.31 g of cyclopentyl methyl 2-(6-aminopyridin-3-ylmethyl)-2-(1-cyclopentyl-1H-imidazol-4-yl)malonate.

reactant | Cyclopentyl methyl 2-(1-cyclopentyl-1H-imidazol-4-yl)malonate | 1.44 mmol, 0.46 g | C1(CCCC1)N1C=NC(=C1)C(C(=O)OC1CCCC1)C(=O)OC | C17H24N2O4
reactant | sodium hydride | 1.44 mmol, 0.07 g | [H-].[Na+]
reactant | tert-butyl (5-bromomethylpyridin-2-yl)carbamate | 1.44 mmol, 0.41 g | BrCC=1C=CC(=NC1)NC(OC(C)(C)C)=O | C11H15BrN2O2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | Cyclopentyl methyl 2-(6-aminopyridin-3-ylmethyl)-2-(1-cyclopentyl-1H-imidazol-4-yl)malonate | NC1=CC=C(C=N1)CC(C(=O)OC1CCCC1)(C(=O)OC)C=1N=CN(C1)C1CCCC1 | C23H30N4O4
